US05217961
3-Methylanthranilic acid 5 g (33 mmol) was dissolved in 10% aqueous sodium hydroxide solution 27 ml and to this solution, phenoxyacetyl chloride 6.2 g (36 mmol) was added dropwise at 0° C. The resulting solution was stirred at room temperature for 1 hour and acidified with 10% hydrochloric acid solution. Deposited crystals were collected by filtration, washed with water and recrystallized from ethanol to obtain 3-methyl-N-(phenoxyacetyl)anthranilic acid (melting point: 174° to 176° C.) 4.4 g (yield: 47%).

reactant | 3-Methylanthranilic acid | 33 mmol, 5 g | CC1=C(C(C(=O)O)=CC=C1)N | C8H9NO2
reactant | phenoxyacetyl chloride | 36 mmol, 6.2 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 27 ml | [OH-].[Na+]
product | 3-methyl-N-(phenoxyacetyl)anthranilic acid | 4.4 g, yield: 47% | CC1=C(C(C(=O)O)=CC=C1)NC(COC1=CC=CC=C1)=O | C16H15NO4
